US07223776B2
29.c) 4-[2-(1,4-Dioxaspiro[4.5]dec-8-yl)ethyl]-6-methoxy-quinoline
Platinum oxide ((0.462 g) was added to a solution of 4-(1,4-dioxa-spiro[4.5]dec-8-yl-ethynyl)-6-methoxy-quinoline (0.83 g, 2.53 mmol) in EtOH (30 ml) and ethyl acetate (10 ml) and hydrogenation was carried out under a hydrogen atmosphere (1 bar). The catalyst was filtered off and the filtrate was concentrated to dryness by rotary evaporation. The residue was purified by column chromatography on silica gel (EtOAc and then EtOAc/-methanol 9/1).

reactant | 4-(1,4-dioxa-spiro[4.5]dec-8-yl-ethynyl)-6-methoxy-quinoline | 2.53 mmol, 0.83 g | O1CCOC12CCC(CC2)C#CC2=CC=NC1=CC=C(C=C21)OC | C20H21NO3
solvent | EtOH | 30 ml | CCO | C2H6O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Platinum oxide | [Pt]=O
product | 4-[2-(1,4-Dioxaspiro[4.5]dec-8-yl)ethyl]-6-methoxy-quinoline | O1CCOC12CCC(CC2)CCC2=CC=NC1=CC=C(C=C21)OC | C20H25NO3
